US06713471B1
The bromo-indoline (0.6 mmol), boronic acid (0.8 mmol) and barium hydroxide (1 mmol) were stirred into a solution of water (4 mL) and DME (8 mL), then heated at 60° C. while bubbling through a stream of Argon gas for 20 min. The reaction mixture was then cooled to room temperature and Pd(PPh3)2Cl2 (0.03 mmol) and PPh3 (0.09 mmol) were quickly added and refluxing resumed for 4 hours. When the reaction was completed as shown by TLC, ethyl acetate (10 mL) was added and the mixture was filtered through a Celite bed. Organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. This residue was purified on a flash column eluting with 10% EtOAc/Hexanes to give the desired product in 60-95% yield. tert-butyl(6bR,10aS)-5-[4-methoxy-2-(trifluoromethyl)phenyl]-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide (135 mg, 74%) was prepared via coupling of the tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide (150 mg, 0.338 mmol) with 2-trifluoromethyl-4-methoxyphenyl boronic acid (112 mg, 0.507 mmol) using the general procedure described above.

reactant | tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide | 0.338 mmol, 150 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)S(CC4)(=O)=O)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O4S
reactant | 2-trifluoromethyl-4-methoxyphenyl boronic acid | 0.507 mmol, 112 mg | FC(C1=C(C=CC(=C1)OC)B(O)O)(F)F | C8H8BF3O3
product | tert-butyl(6bR,10aS)-5-[4-methoxy-2-(trifluoromethyl)phenyl]-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate 3,3-dioxide | 135 mg, 74% | COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)S(CC4)(=O)=O)CCN(C3)C(=O)OC(C)(C)C)C(F)(F)F | C26H29F3N2O5S
